US08293735B2
7-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine
Prepared according to the method used in the preparation of 4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-3,3-dimethyl-piperazin-2-one using 5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine in place of 3,3-dimethyl-piperazin-2-one. The title compound was obtained as a white solid (115 mg, 84%).

reactant | 4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-3,3-dimethyl-piperazin-2-one | ClC=1N=C(C2=C(N1)C=C(S2)CN2C(C(NCC2)=O)(C)C)N2CCOCC2 | C17H22ClN5O2S
reactant | 5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine | N=1N=CN2C1CNCC2 | C5H8N4
product | 7-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CC=1N(CC2)C=NN1)N1CCOCC1 | C16H18ClN7OS
